US07365174B2
Preparation Method of 3-bromo-5-(phenylthio)pyridine
In a volume of 268 μl of thiophenol was dissolved in 8 ml of dimethylformamide, added with 62.6 mg of sodium hydride at room temperature, and stirred for 1 hour. The reaction system was added with 618 mg of 3,5-dibromopyridine, heated to 130° C., and stirred under the same condition for 6.5 hours. The reaction system was added with saturated aqueous ammonium chloride, and extracted with ethyl acetate, and the organic layer was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate (50:1 to 7:1)) to obtain 403 mg of the title compound.

reactant | sodium hydride | 62.6 mg | [H-].[Na+]
reactant | 3,5-dibromopyridine | 618 mg | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | thiophenol | 268 μl | C1(=CC=CC=C1)S | C6H6S
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 3-bromo-5-(phenylthio)pyridine | 403 mg | BrC=1C=NC=C(C1)SC1=CC=CC=C1 | C11H8BrNS
